US07585868B2
Synthesis of 3-(naphthalen-2-yl)-1-(prop-2-ynyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK168).
3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (50 mg, 0.21 mmol) was dissolved in DMF (1.5 mL) and K2CO3 (110 mg, 0.8 mmol) and propargylbromide were added. The reaction was heated to 60° C. overnight, then cooled to RT and poured into water (30 mL). The precipitate was collected by filtration. ESI-MS (M+H)+ m/z calcd 300.1, found 300.2

reactant | 3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.21 mmol, 50 mg | C1=C(C=CC2=CC=CC=C12)C1=NNC2=NC=NC(=C21)N | C15H11N5
reactant | K2CO3 | 0.8 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | propargylbromide | C(C#C)Br | C3H3Br
reactant | water | 30 mL | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-(naphthalen-2-yl)-1-(prop-2-ynyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C1=C(C=CC2=CC=CC=C12)C1=NN(C2=NC=NC(=C21)N)CC#C | C18H13N5
